US06855713B2
c) 3-amino-4-methylamino-benzoic acid methyl ester
71 g of 4-methylamino-3-nitro-benzoic acid-methyl ester (338 mmol) are hydrogenated in 1.41, of methanol and 67 ml of concentrated aqueous hydrochloric acid in the presence of 15 g of Pd/C (5%) at 2-5 bar, at room temperature. After filtering off the catalysts and distilling off the solvent under vacuum, the residue is dissolved in 200 ml of water, covered with ethyl acetate and basified with a 50% solution of potassium carbonate. The product is extracted in the organic phase, which is again washed with water and then dried over sodium sulphate. After removal of most of the solvent by distillation under vacuum, diethyl ether is added and it is cooled off. The resulting crystals are filtered off. Yield: 54 g (81%); MPt.: 215-220° C. (decomposition).

reactant | 4-methylamino-3-nitro-benzoic acid-methyl ester | 338 mmol, 71 g | COC(C1=CC(=C(C=C1)NC)[N+](=O)[O-])=O | C9H10N2O4
reactant | hydrochloric acid | 67 ml | Cl | ClH
catalyst | Pd/C | 15 g | [Pd] | Pd
solvent | methanol | CO | CH4O
product | 3-amino-4-methylamino-benzoic acid methyl ester | COC(C1=CC(=C(C=C1)NC)N)=O | C9H12N2O2
